* A resistor cube with a voltage source across two outermost corners.
R1 1 0 2.4
R2 2 1 2.4
R3 2 3 2.4
R4 3 0 2.4
R5 4 1 2.4
R6 5 2 2.4
R7 6 3 2.4
R8 7 0 2.4
R9 4 7 2.4
R10 5 4 2.4
R11 5 6 2.4
R12 6 7 2.4
Vbat 5 0 12